US05223639
Into 15 ml of dimethylformamide was dissolved with heating 4.65 g (0.02 mol) of anthranilic acid-magnesium chloride complex. To 10 ml of dimethylformamide were added in order 0.78 ml of thionyl chloride and 2.08 g (0.01 mol) of 3',4'-dimethoxycinnamic acid, during which the reaction system was stirred and cooled with ice and water. After being stirred for additional 15 minutes, the resulting mixture was added dropwise to the solution of anthranilic acid-magnesium chloride complex. After the completion of the dropping, the reaction mixture was stirred for 30 minutes at the same temperature and then for 1 hour at room temperature. After the completion of the reaction, 80 ml of ice-water mixture was added thereto. Then, air was introduced thereinto for 30 minutes, and crystals deposited were collected by filtration and recystallized from ethanol-water (1:3) to give 2.58 g (78.9%) of N-(3',4'-dimethoxycinnamoyl)-anthranilic acid. Molting point: 209°-211° C.

reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 0.78 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3',4'-dimethoxycinnamic acid | 0.01 mol, 2.08 g | COC1=C(C=C(C=C1)/C=C/C(=O)O)OC | C11H12O4
reactant | water | O | H2O
product | N-(3',4'-dimethoxycinnamoyl)-anthranilic acid | 2.58 g, 78.9% | COC=1C=C(C=CC(=O)NC=2C(C(=O)O)=CC=CC2)C=CC1OC | C18H17NO5
